US08242134B2
(4-Bromo-8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester
A solution of (8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester (501.9 mg, 1.717 mmol) and N-bromosuccinimide (366.0 mg, 2.056 mmol) in N,N-dimethylformamide (5 mL) was stirred at r.t. for 60 min. It was poured into 50 ml ether, washed with 5% aq. NaHCO3 two times, then with water 3 times, white precipitate formed, which was filtered and washed with ether to give 118 mg of the pure title product. Supernatant gave 490 mg more of the title product as a colourless solid; total yield 95.4%. LC-MS (m/z) 271.5 and 273.3 (major fragment, M-Boc), tR=1.39. 1H NMR (500 MHz, CDCl3) 1.51 (br. s, 9H, tBu), 2.64 (s, 3H, Me), 7.11 (dd, J=8.2 Hz, J=10.6 Hz, 1H, C7H), 3.67 (br. s, 1H, NH), 7.63 (dt, J (d)=4.95 Hz, J (t)=8.1 Hz, 1H, C6H), 7.68 (d, J=8.1 Hz, 1H, C5H). 19F NMR (470.59 MHz, CFCl3=0 ppm), 4:96 mixture of rotamers, −108.9 (br. s, 0.04F), −109.98 (br. s, 0.96F). 13C APT NMR (CDCl3=77.43 ppm): 20.15 (Me), 28.47 (tBu), 83.47 (C of tBu), 113.44 (C), 114.24 (d, J=21.4 Hz, C7H), 122.57 (d, J=4 Hz, C5H), 134.68 (d, J=10.3 Hz, C6H), 138.31 (s, C), 142.69 (s, C), 155.91 (C), 158.42 (C), 161.63 (s, C), 163.74 (s, C).

reactant | (8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester | 1.717 mmol, 501.9 mg | C(C)(C)(C)OC(NN1C(C2=C(C=CC=C2C=C1C)F)=O)=O | C15H17FN2O3
reactant | N-bromosuccinimide | 2.056 mmol, 366.0 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4-Bromo-8-fluoro-3-methyl-1-oxo-1H-isoquinolin-2-yl)-carbamic acid tert-butyl ester | 118 mg | C(C)(C)(C)OC(NN1C(C2=C(C=CC=C2C(=C1C)Br)F)=O)=O | C15H16BrFN2O3
